US07399759B2
2-(2-Pyridyl)-4H-pyrido[3,2-e][1,3]thiazine-4-one
A mixture of 2-mercaptonicotinic acid (5.00 g, 32.2 mmol), 2-cyanopyridine (3.39 g, 32.5 mmol) and pyridine (30.0 ml) was refluxed at 135° C. for 72 hrs as described in Example 9. The mixture was concentrated. The residue was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (1:1, v/v). The resultant product was recrystallized from ethanol to give the titled compound (0.10 g, 1%).

reactant | 2-mercaptonicotinic acid | 32.2 mmol, 5.00 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 2-cyanopyridine | 32.5 mmol, 3.39 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 30.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Pyridyl)-4H-pyrido[3,2-e][1,3]thiazine-4-one | 0.10 g, 1% | N1=C(C=CC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C12H7N3OS
